// Generated for: spectre
// Generated on: Sep 30 10:23:17 2021
// Design library name: Device_Characteristics
// Design cell name: FastBias_ne
// Design view name: schematic
simulator lang=spectre
global 0
parameters WF5=3.75e-07 L5=1.5e-05 NF5=1 IDS5=1e-07 VDS5=0.5 WF4=2e-06 \
    L4=1e-06 NF4=10 IDS4=5e-07 VDS4=0.5 WF3=5e-07 L3=1.5e-05 NF3=10 \
    IDS3=5e-06 VDS3=0.3 WF2=2e-05 L2=1e-05 NF2=1 IDS2=5e-08 VDS2=0.5 \
    WF1=5e-07 L1=1.2e-05 NF1=10 IDS1=2e-06 VDS1=0.5
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: Device_Characteristics
// Cell name: Bias_ne
// View name: schematic
subckt Bias_ne
parameters W L NF IDS VDS
    M0 (D G 0 0) ne w=W l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(W)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(W)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(W))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(W)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(W))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(W)))/(NF) \
         nrs=2.7e-07/(W) nrd=2.7e-07/(W) m=(1)*(NF) par1=((1)*(NF)) \
        xf_subext=0
    I0 (0 D) isource dc=IDS type=dc
    E0 (G 0 D net7) vcvs gain=1000
    V0 (net7 0) vsource dc=VDS type=dc
ends Bias_ne
// End of subcircuit definition.

// Library name: Device_Characteristics
// Cell name: FastBias_ne
// View name: schematic
I4 Bias_ne W=WF5 L=L5 NF=NF5 IDS=IDS5 VDS=VDS5
I3 Bias_ne W=WF4 L=L4 NF=NF4 IDS=IDS4 VDS=VDS4
I2 Bias_ne W=WF3 L=L3 NF=NF3 IDS=IDS3 VDS=VDS3
I1 Bias_ne W=WF2 L=L2 NF=NF2 IDS=IDS2 VDS=VDS2
I0 Bias_ne W=WF1 L=L1 NF=NF1 IDS=IDS1 VDS=VDS1
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 \
    sensfile="../../../../Device_Characteristics/FastBias_ne/spectre/schematic/psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
